US03997572
A mixture of 9.0 parts of adamantan-2-one, 5.8 parts of potassium cyanide and 19.2 parts of ammonium carbonate in 90 parts by volume of a 50% by volume ethanol-water mixture is heated in a bomb at 62° C. for 24 hours. Water is used to aid in transferring the material from the bomb and the ethanol is evaporated from the resulting mixture. The solid is separated by filtration, washed with water, dried, and then recrystallized from a mixture of water and pyridine or water, ethanol, and pyridine to give spiro[adamantane-2,4'-imidazoline]-2',5'-dione melting at about 290-293° C.

reactant | adamantan-2-one | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | potassium cyanide | [C-]#N.[K+]
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol water | C(C)O.O
solvent | Water | O | H2O
product | spiro[adamantane-2,4'-imidazoline]-2',5'-dione | N1C(NC2(C1=O)C1CC3CC(CC2C3)C1)=O | C12H16N2O2
